US08440830B2
To a solution of freshly prepared sodium ethoxide was added diethyl oxalate (1.5 eq.) followed by 4-methyl-3-nitro pyridine (1 eq.) in toluene and reaction mixture was stirred overnight. It was then concentrated under reduced pressure and acidified with acetic acid to obtained red solid, which on further purification, by column chromatography provided the ethyl 3-(3-nitropyridin-4-yl)-2-oxopropanoate.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl oxalate | 1.5 eq. | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 4-methyl-3-nitro pyridine | 1 eq. | CC1=C(C=NC=C1)[N+](=O)[O-] | C6H6N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(3-nitropyridin-4-yl)-2-oxopropanoate | [N+](=O)([O-])C=1C=NC=CC1CC(C(=O)OCC)=O | C10H10N2O5
